US07700591B2
Benzyl bromide (2.29 mL, 19.3 mmol) was added dropwise to a cooled (0° C.) mixture of commercially available 3-[1-(tert-butoxycarbonyl)piperidin-4-yl]propanoic acid (4.96 g, 19.3 mmol) and K2CO3 (6.67 g, 48.3 mmol) in 40 mL of DMF. The reaction mixture was permitted to warm to rt and stir for 3 days (the reaction was likely complete after only a few h). The reaction mixture was diluted with ether and washed four times with water, then once with brine. The ethereal layer was dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 30% ethyl acetate/hexanes) provided tert-butyl 4-[3-(benzyloxy)-3-oxopropyl]piperidine-1-carboxylate. 1HNMR (CDCl3, 500 MHz): δ 7.38 (m, 5H), 5.14 (s, 2H), 4.09 (br m, 2H), 2.65 (m, 2H), 2.41 (t, J=7.5 Hz, 2H), 1.63 (m, 4H), 1.47 (s, 9H), 1.40 (m, 1H), 1.10 (dq, J=4.0, 12 Hz, 2H).

reactant | Benzyl bromide | 19.3 mmol, 2.29 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-[1-(tert-butoxycarbonyl)piperidin-4-yl]propanoic acid | 19.3 mmol, 4.96 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
reactant | K2CO3 | 48.3 mmol, 6.67 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | tert-butyl 4-[3-(benzyloxy)-3-oxopropyl]piperidine-1-carboxylate | C(C1=CC=CC=C1)OC(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H29NO4
